US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (456 mg) was coupled to p-methoxyphenylboronic acid to provide 3-(3-chloropropyl)-1-(4-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (132 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 456 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | p-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 3-(3-chloropropyl)-1-(4-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 132 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC=C(C=C2)OC)(=O)=O | C17H19ClN2O3S
